US04696949
(a) 5-[(tetrahydropyran-2-yl)oxy]-1,2-diphenylpentan-1-one
The compound is prepared from 19.6 g of desoxybenzoin and 22.3 g of tetrahydropyran-2-yl ether-protected 3-bromopropanol according to the procedure described in Example 1(a).

reactant | desoxybenzoin | 19.6 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | tetrahydropyran-2-yl ether | 22.3 g | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | 3-bromopropanol | BrCCCO | C3H7BrO
product | 5-[(tetrahydropyran-2-yl)oxy]-1,2-diphenylpentan-1-one | O1C(CCCC1)OCCCC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C22H26O3
